US04349684
8-[3-(4-Chlorophenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] caprylic acid methyl ester
The product is produced as described in example 1 from 2.4 g of NaH (80% suspension in mineral oil), 21.6 g of 1-(4-chlorophenyl)-5-phenyl-4-imidazolin-2-one, 160 cc. of DMF, 19.0 g of 8-bromocaprylic acid methyl ester and 2.4 g of NaJ.

reactant | NaH | 2.4 g | [H-].[Na+]
reactant | 1-(4-chlorophenyl)-5-phenyl-4-imidazolin-2-one | 21.6 g | ClC1=CC=C(C=C1)N1C(NC=C1C1=CC=CC=C1)=O | C15H11ClN2O
reactant | 8-bromocaprylic acid methyl ester | 19.0 g | COC(CCCCCCCBr)=O | C9H17BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-[3-(4-Chlorophenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] caprylic acid methyl ester | COC(CCCCCCCN1C(N(C(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)=O)=O | C24H27ClN2O3
